US09035073B2
Enantiomer 2 of 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine-1-oxide
To a stirred solution of enantiomer 2 of 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine (0.011 g, 0.045 mmol) in dichloromethane (2 ml) was added 3-chloroperoxybenzoic acid (77%) (0.0204 g, 0.09 mmol). The mixture was stirred at room temperature for 30 min and was then filtrated through a plug of aluminiumoxid (basic) which was eluted with dichloromethane:MeOH (9:1). The crude product was analyzed by LCMS (Qtrap, Applied Biosystems, Q1 MS). analysis showed <95% conversion: MS (m+1)/z; 258 (M+1, bp), 259 (23), 257 (3), 214 (7), 142 (5).

reactant | 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine | 0.045 mmol, 0.011 g | FC=1C=C(C=CC1F)C1(CN(CC1)CC)OC | C13H17F2NO
reactant | 3-chloroperoxybenzoic acid | 0.09 mmol, 0.0204 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine-1-oxide | FC=1C=C(C=CC1F)C1(C[N+](CC1)(CC)[O-])OC | C13H17F2NO2
